US08487108B2
To a solution of (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((methylamino)methyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate (212 mg, 0.53 mmol) in absolute MeOH was added a NaOMe solution in MeOH (33%, 0.4 mL). The resulting solution was stirred for 24 h. The solvent was removed under reduced pressure, the residue was dissolved in EtOAc (50 mL), washed with 1 M HCl, sat. aq. NaHCO3, brine, and dried over Na2SO4, filtered and evaporated to give (S)-tert-butyl 2,2-dimethyl-4-(((R)-1-methyl-6-oxopiperidin-3-yl)methyl)oxazolidine-3-carboxylate (160 mg, 92%). MS ESI +ve m/z 564 (M+Na).

reactant | (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((methylamino)methyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.53 mmol, 212 mg | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CNC)=O | C21H40N2O5
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 0.4 mL | CO | CH4O
product | (S)-tert-butyl 2,2-dimethyl-4-(((R)-1-methyl-6-oxopiperidin-3-yl)methyl)oxazolidine-3-carboxylate | 160 mg, 92% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1CN(C(CC1)=O)C)C | C17H30N2O4
